US05750531
Synthesis of 5,6-dimethyl-4-(4-fluorophenylamino)-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 4-fluoroaniline(0.6 ml, 6.3 mmol) was added to a mixture solution of 5,6-dimethyl-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloropyrimidine(0.85 g, 3.0 mmol) and dimethylformamide(10 ml), 0.62 g of the titled compound was obtained in accordance with the same procedure as in Step 4 of Example 57.

reactant | 4-fluoroaniline | 6.3 mmol, 0.6 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 5,6-dimethyl-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloropyrimidine | 3.0 mmol, 0.85 g | CC=1C(=NC(=NC1C)N1C(C2=CC=CC=C2CC1)C)Cl | C16H18ClN3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-4-(4-fluorophenylamino)-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.62 g, Yield: 52% | Cl.CC=1C(=NC(=NC1C)N1C(C2=CC=CC=C2CC1)C)NC1=CC=C(C=C1)F | InChI=1S/C22H23FN4.ClH/c1-14-15(2)24-22(26-21(14)25-19-10-8-18(23)9-11-19)27-13-12-17-6-4-5-7-20(17)16(27)3;/h4-11,16H,12-13H2,1-3H3,(H,24,25,26);1H
